US08871756B2
4-({[3-(Aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinoline-6-carboxylic acid
To a stirred solution of methyl 4-({[3-(aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinoline-6-carboxylate (100 mg, 0.2 mmol) in tetrahydrofuran and water (4 mL, V/V=3/1) was added sodium hydroxide (40 mg, 1.0 mmol). After being stirred at room temperature overnight, the resulting mixture was concentrated in vacuo to remove the organic solvent. The residual aqueous solution was acidified with an aqueous solution of citric acid (5 mL, 20%) and extracted with dichloromethane (15 mL×3). The combined organic layers were dried over anhydrous sodium sulfate and concentrated in vacuo to afford a sticky solid, which was purified by flash column chromatography (eluting with 5% methanol in dichloromethane) to afford 20 mg of the desire product as a solid. MS obsd. (ESI+) [(M+H)+] 483, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.78 (s, 1 H), 8.01 (d, 1 H), 7.90 (m, 2 H), 7.61 (t, 1 H), 7.47 (t, 1 H), 7.32 (d, 1 H), 6.29 (s, 1 H), 5.76 (s, 2 H), 4.40 (m, 6 H), 3.78 (s, 2 H), 3.62 (s, 2 H), 3.17 (m, 2 H).

reactant | methyl 4-({[3-(aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinoline-6-carboxylate | 0.2 mmol, 100 mg | NCC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C(=O)OC)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C25H28N4O5S
reactant | sodium hydroxide | 1.0 mmol, 40 mg | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 4 mL | O | H2O
product | 4-({[3-(Aminomethyl)oxetan-3-yl]methyl}amino)-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinoline-6-carboxylic acid | 20 mg | NCC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C(=O)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C24H26N4O5S
